### ISSUE TITLE
"Try this" suggestion includes trailing comments

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#4581]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

If I have this code
```lean
theorem foo (h : 1 = 1) : 1 = 2 := sorry

theorem bar : 1 = 2 := by
  simpa? using foo (by simp)
  -- This is a comment
  -- This is another comment
```
Then the "Try this" suggestion in the infoview looks like this:

![image](https://github.com/leanprover/lean4/assets/2065352/fd4ae1a7-8017-45ca-977f-cd6bc8c5da16)

After accepting the suggestion, the code is turns into this:
```lean
theorem foo (h : 1 = 1) : 1 = 2 := sorry

theorem bar : 1 = 2 := by
  simpa only [Nat.reduceEqDiff] using
    foo
      (by simp)  -- This is a comment
          -- This is another comment
  -- This is a comment
  -- This is another comment
```

Now the comments are duplicated

### Steps to Reproduce

1. Paste the above code into the Lean 4 web editor

**Expected behavior:** Comments are not included in the suggestion

**Actual behavior:** Comments are included, leading to duplication upon accepting the suggestion

### Versions

4.10.0-nightly-2024-06-27

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by TwoFX** [comment]
Jujian Zhang just ran into this while demoing Lean to a bunch of people in Durham :)
